US08470841B2
26c N-{3-[4-(5-Hydroxypyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide
N-{3-[4-(5-Bromopyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide (509 mg, 1.397 mmol) were dissolved in 5 ml of THF and, at −78° C., n-butyllithium (1.6 M in hexane, 2.18 ml, 3.49 mmol) was added dropwise. This was followed after 20 min by addition of trimethyl borate (0.25 ml, 2.26 mmol), stirring at −78° C. for 2 h and then addition of peracetic acid (35 percent strength, 0.475 ml, 2.26 mmol) and stirring for 10 min. The reaction mixture was warmed to 0° C., stirred for 1 h and hydrolyzed at −10° C. with 5 ml of 10 percent strength sodium hydrogen sulfite solution. The solvent was removed in a rotary evaporator, the aqueous phase was extracted with ethyl acetate, the organic phase was washed with sodium chloride solution, and dried with magnesium sulfate and concentrated. The crude product was purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 129 mg, M+H+: 302.15. Fraction contains the desired substance only partially.

reactant | N-{3-[4-(5-Bromopyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide | 1.397 mmol, 509 mg | BrC=1C=NC(=NC1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C16H18BrN3O2
reactant | n-butyllithium | 3.49 mmol, 1.6 M, 2.18 ml | C(CCC)[Li]
reactant | trimethyl borate | 2.26 mmol, 0.25 ml | B(OC)(OC)OC | C3H9BO3
reactant | peracetic acid | 2.26 mmol, 0.475 ml | C(C)(=O)OO | C2H4O3
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-{3-[4-(5-Hydroxypyrimidin-2-yloxy)phenyl]-1-methylpropyl}acetamide | OC=1C=NC(=NC1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C16H19N3O3
